US08309551B2
Methyl 3-(3,5-dichloropyridin-2-yl)-2-(2-fluorophenyl)-3-oxopropanoate
28.5 ml (28.5 mmol) of a 1 M solution of LiHMDS in hexane are added to 50 ml of THF at −78° C. A solution of 4.00 g (23.8 mmol) of methyl (2-fluorophenyl)acetate in 10 ml of THF is then added dropwise. The mixture is stirred at −78° C. for 1 h and then 6.00 g (28.5 mmol) of 3,5-dichloro-pyridine-2-carbonyl chloride are added in portions. After a further hour, the mixture is allowed to reach RT and saturated ammonium chloride solution is added dropwise. The mixture is diluted with water and extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution and dried over sodium sulfate. The residue after concentration in vacuo is purified by chromatography on silica gel (eluent: dichloromethane/methanol 50:1). 4.46 g (46% of theory) of the desired compound are obtained as a yellowish oil.

reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methyl (2-fluorophenyl)acetate | 23.8 mmol, 4.00 g | FC1=C(C=CC=C1)CC(=O)OC | C9H9FO2
reactant | 3,5-dichloro-pyridine-2-carbonyl chloride | 28.5 mmol, 6.00 g | ClC=1C(=NC=C(C1)Cl)C(=O)Cl | C6H2Cl3NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Methyl 3-(3,5-dichloropyridin-2-yl)-2-(2-fluorophenyl)-3-oxopropanoate | ClC=1C(=NC=C(C1)Cl)C(C(C(=O)OC)C1=C(C=CC=C1)F)=O | C15H10Cl2FNO3
